Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Falls related to Syncope 
 
Major Surgical or Invasive Procedure:
___: PPM implant

 
History of Present Illness:
___ year old female s/p fall/syncopal episode found to have
Mobitz 2 heart block referred from ER for pacemaker 
implantation.

HPI: ___ yo woman with PMHx of dementia, prior stroke, and
depression who presented to ER after fall, found to be
bradycardic to the ___. History was obtained from her family
bedside.  They note that she has had falls in the recent past,
where she would try to get up or walk.  She has fallen this past
week as well on ___ and ___.  Last night they put her
into bed.  When her daughter came to wake her up this morning 
she
found her on the floor.  Her daughter notes that her mother
usually never gets up without her daughter being present.  In
terms of bradycardia, the daughter notes that her mother's
physical therapist would come to the house and noted the patient
to be bradycardic.  They had spoken at the time to her primary
care physician. Per her family, she has had no witnessed 
syncopal
events prior to this.  She denied any chest pain, fevers, 
chills.
In ER she underwent NCHCT which demonstrated acute on chronic
tiny SDH, left periorbital hematoma -- mild TBI -- no further
neurosurgical follow-up was indicated at this time. Chest CT,
facial CT, and CT spine showed no acute processes

She was seen by EP and found to be in Mobitz 2 2:1 heart block;
family consented for a pacemaker; Per discussion with
neurosurgical team, no contraindication to pacemaker insertion.
She underwent placement of a ___ dual chamber PPM via
cephalic access without complication per Dr. ___
 
___ Medical History:
dementia
depression
CVA with residual R sided weakness per family
CAD 
frequent falls per family
arthritis treated with acetaminophen BID
cataract surgery b/l
 
Social History:
lives in own apartment downstairs from daughter;
___ speaking; has health aide 7 hours per week; ambulates
with walker
 
Physical Exam:
Vital signs: afebrile, heart rate ___, SBP 140s-160s/70-80s. 95%
RA
General: elderly female lying in bed, no distress
HEENT: right periorbital hematoma
Neck: normal jugular venous pressure, carotids 3+ with normal
upstroke and without bruits
Cardiac: regular rate and rhythm, normal S1 and split S2, no
murmurs, rubs or gallops; left chest with pacemaker in place,
dressing clean and intact
Pulm: clear lungs bilaterally
Abdomen: soft, non-tender, no masses or bruits
Extremities: warm and well perfused, no clubbing or edema, 3+
pulses throughout
 
Pertinent Results:
___ 12:50PM   GLUCOSE-195* UREA N-27* CREAT-0.9 SODIUM-138 
POTASSIUM-4.9 CHLORIDE-99 TOTAL CO2-24 ANION GAP-15
___ 12:50PM   estGFR-Using this
___ 12:50PM   CK(CPK)-57
___ 12:50PM   cTropnT-<0.01
___ 12:50PM   CK-MB-2
___ 12:50PM   CALCIUM-9.7 PHOSPHATE-4.0 MAGNESIUM-2.1
___ 12:50PM   WBC-8.5 RBC-4.80 HGB-15.1 HCT-46.6* MCV-97 
MCH-31.5 MCHC-32.4 RDW-14.9 RDWSD-54.0*
___ 12:50PM   NEUTS-80.1* LYMPHS-12.1* MONOS-6.2 EOS-0.5* 
BASOS-0.6 IM ___ AbsNeut-6.78* AbsLymp-1.02* AbsMono-0.52 
AbsEos-0.04 AbsBaso-0.05
___ 12:50PM   PLT COUNT-237
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with dementia who
presented after fall/syncopal event complicated by small 
subacute
on chronic subdural hemorrhage, subsequently found to be in 2:1
AV block now s/p dual-chamber PPM placement.

# Mobitz Type 2, 2:1 AV block
The patient experienced a traumatic fall, found to be in 2:1 AV
block, now s/p dual-chamber PPM.
- F/U device clinic 1 week
- F/U Dr. ___ in 4 weeks

# Subacute on Chronic SDH
Seen by neurosurgery
- discontinue aspirin (no clear indication for it)
- Continue Keppra 500mg bid x1 week

EEDSIDE SWALLOW EVALUATION SUMMARY/IMPRESSION FROM SLP:
Within the constraints of a bedside swallowing assessment, the
patient presents with suspected oropharyngeal dysphagia most
remarkable for poor oral acceptance, poor oral control, bolus
holding with puree and whole meds, piecemeal swallow with thins,
and s/sx of aspiration with thins via straw sip. 

Oral phase deficits appear to present in the context of dementia
vs. confusion vs. limited participation with unknown staff.
Although the interpreter was present, she was unable to follow
commands or communicate with him in her native language. At this
time, it is unknown if her oral phase deficits (i.e., bolus
holding and pocketing) are baseline behaviors. The pt is judged
to be at a high risk of aspiration d/t overt s/sx with thins and
behavioral pocketing at this time. 

Based on today's assessment, recommend NPO status with all
meds/nutrition/hydration via short term non-oral means if within
the pt's GOC. If non-oral means cannot be obtained, then
ESSENTIAL medications CRUSHED in applesauce may be provided with
liquid wash of thins via pinched straw. At this time, strongly
recommend GOC conversation with family to discuss nutritional
status, potential for enteral access, and determining baseline
behaviors.

Prognosis to return to a PO diet is fair-guarded. Patient's with
advanced dementia are known to demonstrate pocketing and bolus
holding, increasing their risk for aspiration. This behavior can
range from intermittent to constant. ___ conversation with 
family
should elucidate how to move the patient's care forward re:
nutritional status.

As always, "silent" (without coughing) aspiration cannot be 
ruled
out at the bedside and can only be confirmed on imaging exams
like Videoswallow or FEES evaluations. However, given patient's
overt s/sx of aspiration, low suspicion for silent aspiration at
this time.

EDUCATION:
 Provided to: ___, RN, NP
 Content: recommendations, aspiration precautions
 Mode: verbal
 Understanding: verbalized an understanding

This swallowing pattern correlates to a Functional Oral Intake
Scale (FOIS) rating of ___.

PLAN/GOALS:
1. Patient will participate in re-assessment of swallow function
with SLP ONLY. 

Treatment Frequency:  ongoing while inpatient

RECOMMENDATIONS:
1. Diet: NPO
    Alternative means of nutrition/hydration/Medication: 
consider
short term non-oral means
2. Medications: via non-oral means. If unable to access,
essential meds CAUTIOUSLY crushed in applesauce with liquid wash
via pinched straw; check for pocketing.
3. Strongly recommend ___ conversation re: nutritional status.
4. Safe Swallowing Strategies:
-Check for oral pocketing
-Pinched straw
5. General Safety: 
    -HOB at 30 degrees at all times
    -HOB fully upright for medications
    -Feed only when alert and attentive 
6. Oral care Q4
7. Speech/swallow service to continue to follow patient.

After assessment, discussed SLP findings with family in 
extensive risk/benefit discussion. Daughter states that patient 
has been coughing at times with PO intake for the past ___ 
months, likely signifying some degree of aspiration. Family 
would like to continue to try to offer dysphagia diet to 
patient, understanding the risks of aspiration, which I think is 
very reasonable. Nursing/case management is looking into 
confirming that the ___ in ___, the accepting 
rehab, can continue to offer SLP care. Hopefully the more recent 
decline in ability to swallow is related to head trauma and 
sedation, although it may signify the natural disease 
progression of patient's dementia. As patient can only take 
crushed medications, will reconsult neurosurgery to see if there 
are any other seizure prophylaxis meds that can be offered for 
the next 5 days- confirmed, will be able to use liquid 
formulation of Keppra.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO BID 
2. calcium citrate 500 mg oral DAILY 
3. Sertraline 25 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  Docusate Sodium 100 mg PO BID  
3.  LevETIRAcetam 500 mg PO BID  
4.  Senna 8.6 mg PO BID  
5.  Acetaminophen 1000 mg PO BID  
6.  calcium citrate 500 mg oral DAILY  
7.  Sertraline 25 mg PO DAILY  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Second degree atrioventricular block
Fall
Acute on Chronic ___
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted after a fall. You were found to be bradycardic 
and in heart block. A permanent pacemaker was placed. Activity 
restrictions and information regarding care of the procedure 
site on your chest are included in your discharge instructions.  


A head CT showed an area of bleeding in the subdural space that 
was there previously. We watched overnight for any changes in 
mental status, you remained stable. You should start a new 
medication called Keppra 500mg twice daily. This medication is 
given to prevent seizure activity after hitting your head. Take 
as directed for 7 days. 

Continue all of your medications with the following changes:  
-  STOP taking aspirin. 

An appointment was made for you to return in 1 week to the 
device clinic to check the wound.  

If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist.  

If you have urgent questions related to your recovery from your 
procedure or are experiencing any symptoms that are concerning 
to you and you think you may need to return to the hospital, you 
may call the ___ HeartLine at ___ to speak to a 
cardiologist or cardiac nurse practitioner.  

It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

Your ___ Cardiac Care Team  

 
Followup Instructions:
___